US07056932B2
To a stirred suspension of (RS)-(5-methyl-1-phenyl-4,5-dihydro-1H-[1,2,4]triazol-3-yl)-methanol (2.28 g) at r.t. in dichloromethane (75 ml) was added MnO2 (8.06 g). The black suspension was heated to reflux and stirring was continued for 24 h. The solids were filtered off and washed with CH2Cl2. The filtrate was concentrated. The crude product was purified by chromatography (silica gel, cyclohexane=>cyclohexane/EtOAc 1:4) to give 5-methyl-1-phenyl-1H-[1,2,4]triazole-3-carbaldehyde (0.78 g) as light yellow solid. MS 188.3 ([M+H]+)

reactant | (RS)-(5-methyl-1-phenyl-4,5-dihydro-1H-[1,2,4]triazol-3-yl)-methanol | 2.28 g | CC1NC(=NN1C1=CC=CC=C1)CO | C10H13N3O
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
catalyst | MnO2 | 8.06 g | O=[Mn]=O
product | 5-methyl-1-phenyl-1H-[1,2,4]triazole-3-carbaldehyde | 0.78 g | CC1=NC(=NN1C1=CC=CC=C1)C=O | C10H9N3O
